US05886044
a) Preparation of [2-((4-Phenoxyphenyl)sulfonylamino)aniline]
The title compound was prepared according to General Method C using 4-phenoxyphenylsulfonyl chloride (969 mg, 3.6 mmol) and o-phenylenediamine (300 mg, 2.77 mmol). The reaction mixture was partitioned between water (200 ml) and toluene:methylene chloride (1:3). The organic phase collected and the methylene chloride evaporated leaving the toluene. Hexane added and the product precipatated from solution. (317 mg, 34%) EI-MS m/z 341 (M+H)+

reactant | 4-phenoxyphenylsulfonyl chloride | 3.6 mmol, 969 mg | O(C1=CC=CC=C1)C1=CC=C(C=C1)S(=O)(=O)Cl | C12H9ClO3S
reactant | o-phenylenediamine | 2.77 mmol, 300 mg | C1(=C(C=CC=C1)N)N | C6H8N2
solvent | Hexane | CCCCCC | C6H14
product | 2-((4-Phenoxyphenyl)sulfonylamino)aniline | O(C1=CC=CC=C1)C1=CC=C(C=C1)S(=O)(=O)NC1=C(N)C=CC=C1 | C18H16N2O3S
